US07504420B2
A solution of 321 mg (2.27 mmol) of 2-(3-methylisoxazol-5-yl)acetic acid, 0.5 mL (2.32 mmol) of diphenylphosphorylazide (DPPA), and 0.35 mL (2.51 mmol) of triethylamine in 30 mL of distilled tert-butyl alcohol was refluxed for 13.5 hours. The solution was concentrated, and the crude residue was dissolved in EtOAc. The organic layer was washed with 1N HCl (3×10 mL) and saturated NaHCO3 solution (3×10 mL). The organic layer was dried over sodium sulfate, filtered, concentrated. Purification by flash silica gel chromatography (28% EtOAc/hexanes) provided 50 mg (10% yield) of tert-butyl (3-methylisoxazol-5-yl)methylcarbamate as a pale yellow solid.

reactant | 2-(3-methylisoxazol-5-yl)acetic acid | 2.27 mmol, 321 mg | CC1=NOC(=C1)CC(=O)O | C6H7NO3
reactant | diphenylphosphorylazide | 2.32 mmol, 0.5 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 2.51 mmol, 0.35 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butyl alcohol | 30 mL | C(C)(C)(C)O | C4H10O
product | tert-butyl (3-methylisoxazol-5-yl)methylcarbamate | 50 mg, 10% yield | CC1=NOC(=C1)CNC(OC(C)(C)C)=O | C10H16N2O3
